US07612075B2
4-(6-Chloro-benzo[b]thiophene-2-sulfonyl)-1-{1-[2-(2-hydroxy-ethylamino)-pyrimidin-4-yl]-piperidin-4-ylmethyl}-piperazin-2-one
To a solution of 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-[1-(2-chloro-pyrimidin-4-yl)-piperidin-4-ylmethyl]-piperazin-2-one (0.40 g, 0.74 mmol) in EtOH is added ethanolamine (0.089 mL, 1.5 mmol). The solution is heated to reflux for 18 h and evaporated to dryness. The residue is chromatographed eluting successively with 1%, 2% and 4% MeOH in CH2Cl2. Fractions containing only product are combined and the solvent evaporated. Trituration with ether afforded the title compound as a yellow solid: MS (ESI): m/z 565 (M++H).

reactant | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-[1-(2-chloro-pyrimidin-4-yl)-piperidin-4-ylmethyl]-piperazin-2-one | 0.74 mmol, 0.40 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCN(CC2)C2=NC(=NC=C2)Cl)=O)C1 | C22H23Cl2N5O3S2
reactant | ethanolamine | 1.5 mmol, 0.089 mL | C(O)CN | C2H7NO
solvent | EtOH | CCO | C2H6O
product | 4-(6-Chloro-benzo[b]thiophene-2-sulfonyl)-1-{1-[2-(2-hydroxy-ethylamino)-pyrimidin-4-yl]-piperidin-4-ylmethyl}-piperazin-2-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCN(CC2)C2=NC(=NC=C2)NCCO)=O)C1 | C24H29ClN6O4S2
